US07396836B2
5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone
After sodium (455 mg, 19.8 mmol) was dissolved in 4-methoxybenzyl alcohol (15 ml) at 90° C. under an atmosphere of nitrogen gas, 5-(6-chloro-3-pyridyl)-4-(2-furyl)-2-pyrimidinylamine (1.80 g, 6.60 mmol) was added thereto and the mixture was stirred as it was. After 1.5 hours, the reaction mixture was cooled as it was and then diluted with an aqueous saturated ammonium chloride solution and ethyl acetate. The resulting organic layer was washed with an aqueous saturated ammonium chloride solution, dried over anhydrous sodium sulfate and concentrated. Trifluoroacetic acid (40 ml) was added to the residue, followed by stirring at 65° C. After 18 hours, the reaction mixture was cooled as it was and diluted with dichloromethane, water and 5N hydrochloride. The resulting aqueous layer was washed with ethyl acetate and adjusted to pH 6 with 5N sodium hydroxide. The resulting crystals were collected by filtration and washed with water, to give crude crystals of the title compound. The resulting crude crystals were suspended in ethyl acetate, collected by filtration and washed with ethyl acetate, to give the title compound (820 mg, 49%) as a colorless solid.

reactant | sodium | 19.8 mmol, 455 mg | [Na] | Na
reactant | 5-(6-chloro-3-pyridyl)-4-(2-furyl)-2-pyrimidinylamine | 6.60 mmol, 1.80 g | ClC1=CC=C(C=N1)C=1C(=NC(=NC1)N)C=1OC=CC1 | C13H9ClN4O
reactant | 4-methoxybenzyl alcohol | 15 ml | COC1=CC=C(CO)C=C1 | C8H10O2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(NC1)=O | C13H10N4O2
